US05159100
Production of 5.5-dimethyl -1,3,2-dioxathiane-2-oxide
25.36 g (0.24 mol) of 2,2-dimethylpropane-1,3-diol was suspended at room temperature in 150 ml of methylene chloride in a 500 ml three-necked flask. 37.36 g (0.31 mol) of thionyl chloride was instilled over 30 minutes. After the end of the addition, the reaction solution was held at reflux for 1.5 hours and then cooled to room temperature. 100 ml of water was added to the reaction. The aqueous phase was discarded; the organic phase was extracted three times with saturated NaHCO3 solution (100 ml), then dried with Na2SO4 and concentrated by evaporation on a rotary evaporator. The residue was distilled at 24 mbars and 78° C. The product was a pure colorless liquid according to GC and weighed 23.4 g, which corresponded to a yield of 92 percent.

reactant | 2,2-dimethylpropane-1,3-diol | 0.24 mol, 25.36 g | CC(CO)(CO)C | C5H12O2
reactant | thionyl chloride | 0.31 mol, 37.36 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 5.5-dimethyl -1,3,2-dioxathiane-2-oxide | yield of 92 percent | CC1(COS(OC1)=O)C | C5H10O3S
